US05602075
4. Preparation of 2-Benzylthio-5-methoxy[1,2,4]triazolo[1,5-a]pyrazine
2-Benzylthio-5-bromo[1,2,4]triazolo[1,5-a]pyrazine (0.71 g) was dissolved in 20 mL of methanol and to this 1.20 mL of 25 percent by weight solution of sodium methoxide in methanol was added by means of a syringe with stirring at ambient temperature. The mixture turned pale yellow and the reaction was complete in 4 hours. The mixture was quenched with 0.5 mL of glacial acetic acid and the volatiles were removed by evaporation under reduced pressure. The oily residue was triturated with water and the solid that formed was recovered by filtration to obtain 0.31 g (50 percent of theory) of the title compound as a light brown solid melting at 114°-116° C.

reactant | 2-Benzylthio-5-bromo[1,2,4]triazolo[1,5-a]pyrazine | 0.71 g | C(C1=CC=CC=C1)SC1=NN2C(C=NC=C2Br)=N1 | C12H9BrN4S
reactant | methanol | 20 mL | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | 2-Benzylthio-5-methoxy[1,2,4]triazolo[1,5-a]pyrazine | C(C1=CC=CC=C1)SC1=NN2C(C=NC=C2OC)=N1 | C13H12N4OS
